US08486963B2
7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester
To a solution of N-(2-fluoro-4-methylsulfanyl-phenyl)-2-pyrimidin-4-ylmethyl-malonamic acid methyl ester (2 g, 5.72 mmol) and diisopropylethyl amine (2.9 mL, 17.2 mmol) in dioxane (30 mL) was added phosphorous (V) oxychloride (2.7 mL, 28.6 mmol) and the reaction mixture heated at reflux for 1 hour. The reaction mixture was cooled to 0° C. and quenched with water (10 mL). The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution (20 mL) and extracted with ethyl acetate (3×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 10-20% ethylacetate in cyclohexane) to yield the title compound as a light brown solid (0.80 g, 42%). LCMS (Method B): RT=3.70 min, M+H+=332.

reactant | N-(2-fluoro-4-methylsulfanyl-phenyl)-2-pyrimidin-4-ylmethyl-malonamic acid methyl ester | 5.72 mmol, 2 g | COC(C(C(=O)NC1=C(C=C(C=C1)SC)F)CC1=NC=NC=C1)=O | C16H16FN3O3S
reactant | diisopropylethyl amine | 17.2 mmol, 2.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorous (V) oxychloride | 28.6 mmol, 2.7 mL | O(Cl)Cl.[P+5]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid methyl ester | 0.80 g, 42% | COC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)SC)F | C16H14FN3O2S
